US06815458B2
N-(1-(Phenylmethyl)piperidin-4-yl)-N-(3-phenyl-2-propen-1-yl)-4-methoxyphenylacetamide (26HCH76B)
To a solution of 4-amino-N-benzylpiperidine (200 mg, 1.05 mmol) in methanol (2 ml) was added trans-cinnamaldehyde (211 mg, 1.6 mmol), followed by Acetic acid in methanol (1 M, 1.4 ml) and sodiumcyanoborohydride in methanol (0.3 M, 4.4 ml). The reaction mixture was stirred at room temperature. After 48 h, water (2 ml) was added. The mixture was stirred for another 2 h before concentrated and redissolved in diethyl ether (20 ml). The organic layer was extracted with HCl(0.1 N, 2×10 ml). The combined aqueous layers were treated with NaOH (0.2 N) until basic (pH>8). The mixture was extracted with dichloromethane (2×10 ml). The combined organic layers were dried (Na2SO4) and concentrated. The crude product, which was used without any further purification, was dissolved in dichloromethane (5 ml). Diisopropylethylamine (284 mg, 2.1 eq.) was added, followed by 4-methoxyphenylacetyl chloride (387 mg, 2.0 eq). The reaction mixture was stirred at room temperature. After 18 h, water (2 ml) was added. After additional 2 h dichloromethane (10 ml) was added. The mixture was extracted with NaOH (0.2 N, 3×15 ml), and water (15 ml). The organic layer was dried (Na2SO4) and concentrated. The crude product was redissolved in methanol (2 ml) and added on to a column carrying strongly acidic cation exchange resin (0.3 mmol/g resin), which was washed with methanol (3×6 ml), and eluted with 10% NH3 in methanol, and concentrated to give the title compound. 13C-NMR (CDCl3): δ 28.5, 38.1, 46.6, 47.4, 50.9, 54.7, 62.9, 113.7, 125.5, 126.4, 126.6, 127.4, 127.9, 128.5, 128.6, 129.6, 130.0, 135.2, 135.3, 138.0, 158.2, 173.2.

reactant | 4-amino-N-benzylpiperidine | 1.05 mmol, 200 mg | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | trans-cinnamaldehyde | 1.6 mmol, 211 mg | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | Diisopropylethylamine | 284 mg, 2.1 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxyphenylacetyl chloride | 387 mg, 2.0 eq | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 1 M, 1.4 ml | CO | CH4O
solvent | sodiumcyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 0.3 M, 4.4 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-(Phenylmethyl)piperidin-4-yl)-N-(3-phenyl-2-propen-1-yl)-4-methoxyphenylacetamide | C1(=CC=CC=C1)CN1CCC(CC1)N(C(CC1=CC=C(C=C1)OC)=O)CC=CC1=CC=CC=C1 | C30H34N2O2
